US07897597B2
tert-Butyl [4-(7-benzyloxy-3-nitroquinolin-4-ylamino)butyl]carbamate (39.92 g, 85.57 mmol) was dissolved in toluene (1700 mL) and added to a Parr vessel charged with 5% platinum on carbon (3.9 g) and a small volume of toluene. The vessel was placed under hydrogen pressure (50 psi, 3.4×105 Pa). The hydrogen was replaced three times, and the reaction was shaken overnight. The reaction mixture was filtered through a layer of CELITE filter aid, and the filter cake was washed with ethanol (700 mL). The filtrate was concentrated under reduced pressure to provide 28.62 g of tert-butyl {4-[3-amino-7-(benzyloxy)quinolin-4-ylamino]butyl}carbamate as a brown solid.

reactant | tert-Butyl [4-(7-benzyloxy-3-nitroquinolin-4-ylamino)butyl]carbamate | 85.57 mmol, 39.92 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCCCCNC(OC(C)(C)C)=O | C25H30N4O5
reactant | hydrogen | [H][H] | H2
solvent | toluene | 1700 mL | C1(=CC=CC=C1)C | C7H8
catalyst | platinum on carbon | 3.9 g | [Pt] | Pt
product | tert-butyl {4-[3-amino-7-(benzyloxy)quinolin-4-ylamino]butyl}carbamate | 28.62 g | NC=1C=NC2=CC(=CC=C2C1NCCCCNC(OC(C)(C)C)=O)OCC1=CC=CC=C1 | C25H32N4O3
